US04511573
A solution of 4 g of 3-(5-ethoxycarbonylpentyl)-1-methyl-2-(3-pyridyl)indole in 40 ml of n-butanol is saturated with methylamine and heated on a steam bath in a pressure bottle for 3 days. The reaction mixture is evaporated to dryness and the product is crystallized from ethyl-ether to yield the 3-[5-(N-methylcarbamoyl)pentyl]-1-methyl-2-(3-pyridyl)indole.

reactant | 3-(5-ethoxycarbonylpentyl)-1-methyl-2-(3-pyridyl)indole | 4 g | C(C)OC(=O)CCCCCC1=C(N(C2=CC=CC=C12)C)C=1C=NC=CC1 | C22H26N2O2
reactant | methylamine | CN | CH5N
solvent | n-butanol | 40 ml | C(CCC)O | C4H10O
product | 3-[5-(N-methylcarbamoyl)pentyl]-1-methyl-2-(3-pyridyl)indole | CNC(=O)CCCCCC1=C(N(C2=CC=CC=C12)C)C=1C=NC=CC1 | C21H25N3O
